US08012956B2
4-(aminocarbonyl)-2-ethyl-5-{[(1R)-1-methylpropyl]amino}benzoic acid
Synthesized according to the method of reagent preparation 50 by using (1R)-1-methylpropylamine in step 1 then following step 2 with the conversion of ethyl 2-bromo-4-cyano-5-{[(1R)-1-methylpropyl]amino}benzoate to ethyl 4-cyano-2-ethyl-5-{[(1R)-1-methylpropyl]amino}benzoate by treatment with ethylmagnesium chloride according to the method described in Synlett 1996, 5, 473-474 then proceeding through steps 3 and 4. 1H NMR (400 MHz, DMSO-d6): 7.94 (s, 1H), 7.81 (d, 1H), 7.49 (s, 1H), 7.27 (s, 1H), 6.98 (s, 1H), 2.67-2.75 (m, 2H), 1.44-1.53 (m, 2H), 1.06-1.15 (m, 6H), 0.89 (t, 3H).

reactant | (1R)-1-methylpropylamine | C[C@H](CC)N | C4H11N
reactant | ethyl 2-bromo-4-cyano-5-{[(1R)-1-methylpropyl]amino}benzoate | BrC1=C(C(=O)OCC)C=C(C(=C1)C#N)N[C@@H](CC)C | C14H17BrN2O2
reactant | ethyl 4-cyano-2-ethyl-5-{[(1R)-1-methylpropyl]amino}benzoate | C(#N)C1=CC(=C(C(=O)OCC)C=C1N[C@@H](CC)C)CC | C16H22N2O2
reactant | ethylmagnesium chloride | C(C)[Mg]Cl
product | 4-(aminocarbonyl)-2-ethyl-5-{[(1R)-1-methylpropyl]amino}benzoic acid | NC(=O)C1=CC(=C(C(=O)O)C=C1N[C@@H](CC)C)CC | C14H20N2O3
